US05216124
N-[4-chloro-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanyl]-3-mercapto-D-valine, methyl ester
The title compound was synthesized by coupling Nα -Boc-(p-chloro) phenylalanine (4.96 g, 16.5 mmol) to 3.6 g (18.2 mmol) of D-penicillamine methylester hydrochloride using the procedure described above in Example 19. The title compound was obtained as a white solid (6.2 g, 84.5%).

reactant | Nα -Boc-(p-chloro) phenylalanine | 16.5 mmol, 4.96 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)Cl)C(=O)O | C14H18ClNO4
reactant | D-penicillamine methylester hydrochloride | 18.2 mmol, 3.6 g | Cl.COC([C@H](N)C(C)(C)S)=O
product | N-[4-chloro-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanyl]-3-mercapto-D-valine, methyl ester | ClC1=CC=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)N[C@H](C(C)(C)S)C(=O)OC)C=C1 | C20H29ClN2O5S
